US09387200B2
a) 2-(Amino-phenyl-methylene)-3-oxo-butyric acid ethyl ester
To a solution of the benzonitrile (40 g, 388.3 mmol) in benzene (600 mL) were added SnCl4 (44.75 mL, 388.3 mmol) and ethyl acetoacetate (49.1 mL, 388.3 mmol) at r.t. with stirring. The mixture was stirred at r.t. for 40 min, and was then refluxed with stirring for 2 h. After cooling to r.t. sat. NaHCO3 solution (200 mL) was added, and the mixture extracted with EtOAc (4×200 mL). The combined organic phases were washed with sat. aq. NaCl solution and water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel. Elution with 5-33% EtOAc/CH2Cl2 gave the title compound as a white solid (41.1 g): MS (m/z) 234.3 (M+1).

reactant | benzonitrile | 388.3 mmol, 40 g | C(C1=CC=CC=C1)#N | C7H5N
reactant | SnCl4 | 388.3 mmol, 44.75 mL | Cl[Sn](Cl)(Cl)Cl
reactant | ethyl acetoacetate | 388.3 mmol, 49.1 mL | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | NaHCO3 | 200 mL | C(=O)(O)[O-].[Na+]
solvent | benzene | 600 mL | C1=CC=CC=C1 | C6H6
product | 2-(Amino-phenyl-methylene)-3-oxo-butyric acid ethyl ester | 41.1 g | C(C)OC(C(C(C)=O)=C(C1=CC=CC=C1)N)=O | C13H15NO3
